US04062864
3-(Dimethylamino)-7-(benzyloxy)-1,2,3,4-tetrahydrocarbazole
A solution of 15.8 g. of 4-dimethylaminocyclohexanone hydrochloride and 20.3 g. of 3-benzyloxyphenylhydrazine hydrochloride (m.p. 165°-168° C.) in 225 ml. of absolute ethyl alcohol was heated under reflux for three hours, cooled to room temperature, and diluted with 50 ml. of water. After standing for three hours the resulting crystals were collected by filtration and washed with ethyl alcohol to give, after recrystallization from ethyl alcohol, 6.1 g. of 3-(dimethylamino)-7-(benzyloxy)-1,2,3,4-tetrahydrocarbazole hydrochloride, m.p. 237°-239° C.

reactant | 4-dimethylaminocyclohexanone hydrochloride | Cl.CN(C1CCC(CC1)=O)C
reactant | 3-benzyloxyphenylhydrazine hydrochloride | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)NN
reactant | ethyl alcohol | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-(Dimethylamino)-7-(benzyloxy)-1,2,3,4-tetrahydrocarbazole | CN(C1CCC=2NC3=CC(=CC=C3C2C1)OCC1=CC=CC=C1)C | C21H24N2O
